US08975265B2
To a mixture of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (100 mg, 0.19 mmol), [1,1-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) CH2Cl2 complex (7.9 mg, 0.01 mmol, 5 mol %) and copper(I) iodide (3.7 mg, 0.019 mmol, 10 mol %) in DMF (2 mL) under an argon atmosphere was added trimethylsilylacetylene (0.08 mL, 0.58 mmol, 3.0 equiv) and triethylamine (0.13 mL, 0.96 mmol, 5.0 equiv). The resulting mixture was heated at 90° C. for 1 h in a microwave apparatus, then concentrated under reduced pressure. The remaining material was separated between water (50 mL) and EtOAc (50 mL). The aqueous phase was extracted with EtOAc (50 mL). The combined organic phases were washed with water (25 mL), dried (Na2SO4 anh), and concentrated under reduced pressure. The remaining material (112 mg) was purified using MPLC (Biotage Isolera Flash NH2 Snap 10 reverse phase column; 99% CH2Cl2/1% MeOH for 1 min., gradient to 90% CH2Cl2/10% MeOH over 10 min.; 90% CH2Cl2/10% MeOH for 5.2 min.) to give {1-[4-(3-phenyl-7-trimethylsilanylethynyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (84 mg, 82%):

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.19 mmol, 100 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | trimethylsilylacetylene | 0.58 mmol, 0.08 mL, 3.0 equiv | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 0.96 mmol, 0.13 mL, 5.0 equiv | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.019 mmol, 3.7 mg | [Cu]I
product | {1-[4-(3-phenyl-7-trimethylsilanylethynyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 84 mg, 82% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C#C[Si](C)(C)C)C1C1=CC=CC=C1)=O | C33H37N3O2Si
